US07560558B2
6-Methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (22 g) was suspended in diphenyl ether (200 ml), and the suspension was heated under reflux overnight. The reaction solution was cooled to room temperature, hexane was then added to the reaction solution, and the precipitated crystal was collected by filtration to give 6-methoxy-7-methyl-1H-quinolin-4-one (16.6 g, yield 93%).

reactant | 6-Methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 22 g | COC=1C=C2C(C(=CNC2=CC1C)C(=O)O)=O | C12H11NO4
reactant | hexane | CCCCCC | C6H14
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methoxy-7-methyl-1H-quinolin-4-one | 16.6 g, yield 93% | COC=1C=C2C(C=CNC2=CC1C)=O | C11H11NO2
